US06451839B1
[[2-Ethyl-1-(2-bromo-phenylmethyl)-3-ureido-1H-indol-4-yl]oxy]acetic acid tert-butyl ester (0.7 g) was dissolved in 5 mL of dichloromethane and 1 mL of trifluoroacetic acid was added. After stirring for 4 hours the reaction mixture was concentrated to dryness, the residue dissolved in ethyl acetate and extracted with 1 N sodium hydroxide. This solution was acidified and extracted with ethyl acetate, the solvent removed by flash evaporation, and the residue slurried in 1 N hydrochloric acid. The resulting greenish solid was isolated by filtration and vacuum dried. This material was flash chromatographed on silica eluting with 19:1 ethyl acetate/methanol containing 2.5% acetic acid to provide [[2-ethyl-1-(2-bromo-phenylmethyl)-3-ureido-1H-indol-4-yl]oxy]acetic acid.

reactant | [[2-Ethyl-1-(2-bromo-phenylmethyl)-3-ureido-1H-indol-4-yl]oxy]acetic acid tert-butyl ester | 0.7 g | C(C)(C)(C)OC(COC1=C2C(=C(N(C2=CC=C1)CC1=C(C=CC=C1)Br)CC)NC(=O)N)=O | C24H28BrN3O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | [[2-ethyl-1-(2-bromo-phenylmethyl)-3-ureido-1H-indol-4-yl]oxy]acetic acid | C(C)C=1N(C2=CC=CC(=C2C1NC(=O)N)OCC(=O)O)CC1=C(C=CC=C1)Br | C20H20BrN3O4
